US07259266B2
Step 1. Preparation of 4-(benzyloxy)-3-bromophenol
To a mixture of MeOH (50 mL) and K2CO3 (49.36 g, 357 mmole) at r.t was dripped commercially available 2-bromobenzene-1,4-diol (15 g, 79 mmole) in MeOH (25 mL), followed by the syringe addition of benzyl bromide (14.93 g, 10.38 mL). The resulting mixture was refluxed for 8 hours. The reaction was cooled to RT and poured into saturated aqueous ammonium chloride (500 mL) and extracted with ethyl acetate (2×150). The combined organic phases were washed with aqueous NaHCO3 solution (2×150 mL), aqueous 1N HCl solution (2×150 mL), and brine (2×150 mL), dried over Na2SO4, filtered and concentrated in vacuo. The crude material was subjected to flash chromatography (Silica, 10% Ethyl acetate/Hexane). ESLRMS m/z 280.9 (M+H).

reactant | K2CO3 | 357 mmole, 49.36 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromobenzene-1,4-diol | 79 mmole, 15 g | BrC1=C(C=CC(=C1)O)O | C6H5BrO2
reactant | benzyl bromide | 10.38 mL, 14.93 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ammonium chloride | 500 mL | [Cl-].[NH4+]
solvent | MeOH | 25 mL | CO | CH4O
solvent | MeOH | 50 mL | CO | CH4O
product | 4-(benzyloxy)-3-bromophenol | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)O)Br | C13H11BrO2
